US08193199B2
To a stirring heterogeneous mixture of 5-chloro-2-(3-fluorophenyl)quinoline-3-carbaldehyde (1.0120 g, 3.542 mmol) in tetrahydrofuran (35.42 mL, 3.542 mmol) was added methylmagnesium bromide 3 M in diethyl ether (3.542 mL, 10.63 mmol) dropwise at 0° C. (started at 11:10 am), and the mixture was then stirred at room temperature. After 3 h, the reaction was quenched with saturated aq. NH4Cl (50 mL) and extracted with EtOAc (50 mL×2). The combined organic layers were washed with water (50 mL×1), brine (50 mL×1), dried over Na2SO4, filtered, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography on a 80 g of Redi-Sep™ column using 0 to 50% gradient of EtOAc in hexane over 25 min and then 50% isocratic of EtOAc for 10 min as eluent to give 1-(5-chloro-2-(3-fluorophenyl)quinolin-3-yl)ethanol as a yellow solid: 1H NMR (400 MHz, DMSO-d6) δ ppm 8.79 (1H, s), 8.00-8.05 (1H, m), 7.73-7.85 (2H, m), 7.54-7.63 (1H, m), 7.41-7.47 (2H, m), 7.33-7.40 (1H, m), 5.56 (1H, d, J=4.3 Hz), 4.98-5.06 (1H, m), 1.27 (3H, d, J=6.7 Hz); LC-MS (ESI) m/z 302.0 [M+H]+.

reactant | 5-chloro-2-(3-fluorophenyl)quinoline-3-carbaldehyde | 3.542 mmol, 1.0120 g | ClC1=C2C=C(C(=NC2=CC=C1)C1=CC(=CC=C1)F)C=O | C16H9ClFNO
reactant | tetrahydrofuran | 3.542 mmol, 35.42 mL | O1CCCC1 | C4H8O
reactant | methylmagnesium bromide | 3 M | C[Mg]Br
reactant | diethyl ether | 10.63 mmol, 3.542 mL | C(C)OCC | C4H10O
product | 1-(5-chloro-2-(3-fluorophenyl)quinolin-3-yl)ethanol | ClC1=C2C=C(C(=NC2=CC=C1)C1=CC(=CC=C1)F)C(C)O | C17H13ClFNO
